US04153614
Manufacture of (R)-4-formyl-2,2,4-trimethyl-1,3-dioxolan
To a solution of 5 g of ethyl (R)-2,2,4-trimethyl-1,3-dioxolan-4-carboxylate in 30 ml of anhydrous ether, cooled down to -78° , were added dropwise while stirring for about 30 minutes, 4.55 g of diisobutylaluminium hydride in 25 ml of anhydrous ether. The temperature was held at -78° during the entire addition. The stirring was continued at -70° for a further 5 hours in order to complete the reaction. Excess reagent was then decomposed by cautious addition of a mixture of 2 ml of methanol and 2 ml of water, the cooling bath was removed and the reaction mixture was slowly brought to room temperature. While vigorously stirring under ice-cooling, 5 ml of 1-M sodium bicarbonate were added thereto. The addition of a total of 3 g of solid sodium bicarbonate in small portions led to the precipitation of aluminium hydroxide. After further vigorous stirring at 0° for 30 minutes, the precipitate was filtered off and washed three times with 30 ml of ether. The combined ether phases were dried over magnesium sulfate and the solvent was distilled off under normal pressure at about 65° bath temperature. The residue was distilled at about 80° bath temperature and 12 mmHg and there were thus obtained 3.2 g of (R)-4-formyl-2,2,4-trimethyl-1,3-dioxolan.

reactant | ethyl (R)-2,2,4-trimethyl-1,3-dioxolan-4-carboxylate | 5 g | CC1(OC[C@@](O1)(C(=O)OCC)C)C | C9H16O4
reactant | diisobutylaluminium hydride | 4.55 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 2 ml | CO | CH4O
reactant | water | 2 ml | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | (R)-4-formyl-2,2,4-trimethyl-1,3-dioxolan | C(=O)[C@@]1(OC(OC1)(C)C)C | C7H12O3
